US07259183B2
20 mg (0.51 mmol) of a sodium hydride suspension in mineral oil (60%) were suspended in 4.2 ml DMF. At 0° C. 134 mg (0.42 mmol) of 2,2,2-trifluoro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-acetamide dissolved in 1 ml DMF were added dropwise and the reaction mixture was stirred for 30 min at 0° C. Then 100 mg (0.42 mmol) of 1-(4-bromomethyl-phenyl)-cyclopropanecarbonitrile dissolved in 1 ml DMF were added and the reaction mixture was stirred at 0° C. for 3 h. Water was added and the mixture was extracted twice with EtOAc. The combined organic layers were washed with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (45 g silica gel; heptane/diethyl ether=1:1) to yield 135 mg (72%) of N-[4-(1-cyano-cyclopropyl)-benzyl]-2,2,2-trifluoro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-acetamide as a yellow viscous oil. MS (ISP) 458.4 (M+NH4)+. MS (ISP). 499.1 (M+OAc)−.

reactant | sodium hydride | 0.51 mmol, 20 mg | [H-].[Na+]
reactant | 2,2,2-trifluoro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-acetamide | 0.42 mmol, 134 mg | FC(C(=O)NCCC1=CC(=CC=C1)C(F)(F)F)(F)F | C11H9F6NO
reactant | 1-(4-bromomethyl-phenyl)-cyclopropanecarbonitrile | 0.42 mmol, 100 mg | BrCC1=CC=C(C=C1)C1(CC1)C#N | C11H10BrN
reactant | Water | O | H2O
solvent | DMF | 4.2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | N-[4-(1-cyano-cyclopropyl)-benzyl]-2,2,2-trifluoro-N-[2-(3-trifluoromethyl-phenyl)-ethyl]-acetamide | 135 mg, 72% | C(#N)C1(CC1)C1=CC=C(CN(C(C(F)(F)F)=O)CCC2=CC(=CC=C2)C(F)(F)F)C=C1 | C22H18F6N2O
